US07259183B2
Preparation of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine
1 ml of 4-tert-butylbenzaldehyde (6.15 mmol) and 960 mg of [rac]-2-amino-1-(4-chloro -phenyl)-ethanol (estimated 4.1 mmol) were dissolved in 40 ml methanol at rt, and after stirring for 5 min at rt, were refluxed for 2 h. After cooling down to rt, 310 mg (8.2 mmol) of sodium borohydride were added and after stirring for 15 min at rt, the reaction mixture was then refluxed for 2 h. After cooling down to rt, the residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was stirred with a small quantity of diethylether/heptane, filtered and the solid dried under high vacuo, leading to 723 g of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine as a white solid (55%). MS (ISP) 318.2 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 6.15 mmol, 1 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | [rac]-2-amino-1-(4-chloro -phenyl)-ethanol | 4.1 mmol, 960 mg | NCC(O)C1=CC=C(C=C1)Cl | C8H10ClNO
reactant | sodium borohydride | 8.2 mmol, 310 mg | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water EtOAc | O.CCOC(=O)C
product | [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine | C(C)(C)(C)C1=CC=C(CNCC(O)C2=CC=C(C=C2)Cl)C=C1 | C19H24ClNO
